US08633200B2
Methyl 2-(3-bromo-7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate
To a solution of methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (350 mg, 0.676 mmol) in acetonitrile (20 mL) was added N-bromosuccinimide (119 mg, 0.676 mmol). The reaction mixture was stirred at r.t. for 1 h. The solvent was evaported and the residue was purified by silica gel chromatography to afford (210 mg, 52%) of the title compound.

reactant | methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.676 mmol, 350 mg | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2C)C2=CC=CC=C2)C | C31H34FN3O4
reactant | N-bromosuccinimide | 0.676 mmol, 119 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Methyl 2-(3-bromo-7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 210 mg, 52% | BrC=1C(=NN2C1N=C(C(=C2C=2C(=C1CCCOC1=C(C2)F)C)C(C(=O)OC)OC(C)(C)C)C)C2=CC=CC=C2 | C30H31BrFN3O4
